US04186014
1.0 mol of isophorone diisocyanate is dissolved in 2.2 mol of phenol at 95°-100° C. after the addition of 0.5 imidazole. The mixture is kept as a liquid by the addition of 200 ml of ethylglycol acetate. 0.9 mol of butyldiethanolamine are added after a reaction time of four hours and the mixture is then distilled at a reaction temperature of 120° C. to remove everything which distils off at a vacuum of 5 torr. The residue is then dissolved in 200 ml of ethylglycol acetate and 400 ml of ethanol and quaternised at 60°-70° C., first with 0.5 mol of epichlorohydrin for three hours and then with 0.5 mol of diethylsulphate. The readily soluble cationic polyurethane with phenylurethane end groups obtained in this way is made up to a volume of 2000 ml with methanol and then stored at temperatures below 10° C.

reactant | isophorone diisocyanate | 1.0 mol | O=C=NC1CC(CN=C=O)(CC(C1)(C)C)C | C12H18N2O2
reactant | phenol | 2.2 mol | C1(=CC=CC=C1)O | C6H6O
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | ethylglycol acetate | 200 ml | CCOCCOC(=O)C | C6H12O3
reactant | butyldiethanolamine | 0.9 mol | C(CCC)N(CCO)CCO | C8H19NO2
reactant | epichlorohydrin | 0.5 mol | C(Cl)C1CO1 | C3H5ClO
reactant | diethylsulphate | 0.5 mol | C(C)OS(=O)(=O)OCC | C4H10O4S
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | phenylurethane | C1(=CC=CC=C1)NC(=O)OCC | C9H11NO2
